US08138187B2
1-Butyl-4-(3-cyclopropyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine hydrochloride, polar diastereomer
1-Butyl-4-(3-cyclopropyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine (polar diastereomer) (135 mg, 0.398 mmol) was dissolved in trichloromethane (15 ml) and methanol (10 ml), and a 5 N hydrochloric acid (0.16 ml. 0.8 mmol) in propan-2-ol was added. The lilac-coloured solution was concentrated and diethyl ether (40 ml) was added. After 30 min the hydrochloride was separated off as a lilac-coloured solid by filtration and washing with diethyl ether (2×2 ml). Example 135 was obtained in a yield of 56% (84 mg) with a melting point of 274-276° C.

reactant | 1-Butyl-4-(3-cyclopropyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine | 0.398 mmol, 135 mg | C(CCC)C1(CCC(CC1)C=1NC2=CC=CC=C2C1C1CC1)N(C)C | C23H34N2
reactant | hydrochloric acid | 0.8 mmol, 5 N, 0.16 ml | Cl | ClH
solvent | trichloromethane | 15 ml | ClC(Cl)Cl | CHCl3
solvent | methanol | 10 ml | CO | CH4O
solvent | propan-2-ol | CC(C)O | C3H8O
product | 1-Butyl-4-(3-cyclopropyl-1H-indol-2-yl)-N,N-dimethylcyclohexanamine hydrochloride | Cl.C(CCC)C1(CCC(CC1)C=1NC2=CC=CC=C2C1C1CC1)N(C)C | InChI=1S/C23H34N2.ClH/c1-4-5-14-23(25(2)3)15-12-18(13-16-23)22-21(17-10-11-17)19-8-6-7-9-20(19)24-22;/h6-9,17-18,24H,4-5,10-16H2,1-3H3;1H
